US09062033B2
Pyridine-2,3-dicarboxylic acid dimethyl ester (D86)
To a solution of pyridine-2,3-dicarboxylic acid (50.0 g, 0.299 mol) in methanol (500 ml) was added con. sulfuric acid (20 ml). After heated to reflux for 24 hours, the mixture was basified with saturate sodium carbonate solution until pH=8 and then extracted with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulphate, filtered and evaporated to give D78 (45.7 g) as a white solid.

reactant | pyridine-2,3-dicarboxylic acid | 0.299 mol, 50.0 g | N1=C(C(=CC=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 500 ml | CO | CH4O
product | Pyridine-2,3-dicarboxylic acid dimethyl ester | COC(=O)C1=NC=CC=C1C(=O)OC | C9H9NO4
